US04906634
4-Methyl-1-[3-[(4-nitrophenyl)thio]propyl]piperidine
Dissolve 8.50 g (55 mmol) of 4-nitrothiophenol in 40 mL of dimethylformamide and make basic with 13.7 mL of 4N potassium hydroxide. Add 10.60 g (60 mmol) of N-[3-chloropropyl]-4-methylpiperidine and heat this solution to 100° C. for 3 h. After this time cool the reaction to room temperature. Add 200 mL of water and extract with 2×150 mL of methylene chloride. Acidify the combined organic extracts to pH=1 with 1N hydrochloric acid and extract with 4×150 mL of water. Neutralize the combined aqueous extracts with saturated sodium bicarbonate solution and extract with 3×200 mL of methylene chloride. Dry the organic extracts over anhydrous sodium sulfate. Filter the drying agent and remove the solvent in vacuo to provide the title compound.

reactant | 4-nitrothiophenol | 55 mmol, 8.50 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | potassium hydroxide | 4N, 13.7 mL | [OH-].[K+]
reactant | N-[3-chloropropyl]-4-methylpiperidine | 60 mmol, 10.60 g | ClCCCN1CCC(CC1)C | C9H18ClN
reactant | water | 200 mL | O | H2O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-Methyl-1-[3-[(4-nitrophenyl)thio]propyl]piperidine | CC1CCN(CC1)CCCSC1=CC=C(C=C1)[N+](=O)[O-] | C15H22N2O2S
